US08106055B2
Preparation of Methyl 1-(4-methoxybenzyl)piperidine-4-carboxylate
4-Methoxybenzyl chloride (1.10 g, 6.98 mmol) was added dropwise to a solution of isonipecotic acid methyl ester (1.00 g, 6.98 mmol) and triethylamine (1.40 g, 14 mmol) in THF (30 ml) and the mixture was stirred at 60° C. for 72 h. 5% strength sodium bicarbonate solution (50 ml) was then added to the reaction mixture and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic phases were dried with sodium sulfate and concentrated i. vac. The residue was purified by flash chromatography with cyclohexane/ethyl acetate (2:1).

reactant | 4-Methoxybenzyl chloride | 6.98 mmol, 1.10 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | isonipecotic acid methyl ester | 6.98 mmol, 1.00 g | COC(C1CCNCC1)=O | C7H13NO2
reactant | triethylamine | 14 mmol, 1.40 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl 1-(4-methoxybenzyl)piperidine-4-carboxylate | COC1=CC=C(CN2CCC(CC2)C(=O)OC)C=C1 | C15H21NO3
